US07943622B2
Step 1. Synthesis of tert-butyl 1,3-dioxotetrahydro-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate
Pyridine (1.4 mL, 17 mmol), DMF (0.29 mL, 3.7 mmol), and thionyl chloride (1.1 mL, 15 mmol) were added in succession to a suspension of 1,4-bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid (3.73 g, 11.3 mmol) in THF (20 mL). The reaction mixture was heated to 40° C. for 3 h. The reaction mixture was diluted with EtOAc (50 mL) and H2O (50 mL). The layers were separated, and the aqueous layer was extracted with EtOAc (2×50 mL). The combined extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was suspended in Et2O (10 mL) and cooled to −20° C. for 1 h. The solid was collected by filtration, washed with Et2O (2×10 mL), and air-dried. This gave 1.73 g (60%) of the title compound as a white solid.

reactant | Pyridine | 17 mmol, 1.4 mL | N1=CC=CC=C1 | C5H5N
reactant | DMF | 3.7 mmol, 0.29 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 15 mmol, 1.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1,4-bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 11.3 mmol, 3.73 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 50 mL | O | H2O
product | tert-butyl 1,3-dioxotetrahydro-1H-oxazolo[3,4-a]pyrazine-7(3H)-carboxylate | O=C1OC(N2C1CN(CC2)C(=O)OC(C)(C)C)=O | C11H16N2O5
